US06747024B1
15.1) Benzyl 3-(4-anilinoanilino)-3-oxo-2-phenylpropanoate
The experimental protocol used is the same as that described for intermediate 12.2, starting from N1-phenyl-1,4-benzenediamine and 3-(benzyloxy)-3-oxo-2-phenylpropanoic acid.

reactant | N1-phenyl-1,4-benzenediamine | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | 3-(benzyloxy)-3-oxo-2-phenylpropanoic acid | C(C1=CC=CC=C1)OC(C(C(=O)O)C1=CC=CC=C1)=O | C16H14O4
product | Benzyl 3-(4-anilinoanilino)-3-oxo-2-phenylpropanoate | N(C1=CC=CC=C1)C1=CC=C(NC(C(C(=O)OCC2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C28H24N2O3
